US05461060
Preparation of 1-(4-hydroxybutyl) -6-phenylthiothymine (Compound No. 31)
To 2 ml of dimethyl sulfoxide, 468 mg (2.0 mmol) of 6-phenylthiothymine, 358 mg (1.0 mmol) of 4-(t-butyldimethylsiloxy)-butyl-p-toluenesulphonate and 276 mg (2.0 mmol) of potassium carbonate were added and heated to react for 4 hours at 80° C. The reaction mixture was concentrated under reduced pressure, added with methanol and filtered. The filtrate was concentrated under reduced pressure, added with 20 ml of tetrahydrofuran and 1 ml of 1N hydrochloric acid and stirred for 90 minutes. The reaction mixture was concentrated under reduced pressure and adsorbed on a silica gel column and eluted with 2% methanol/chloroform. The eluate was concentrated and crystallized from acetone/hexane to obtain 12.0 mg of the target compound (Yield: 4%).

reactant | 6-phenylthiothymine | 2.0 mmol, 468 mg | C1(=CC=CC=C1)C1=C(C(NC(N1)=S)=O)C | C11H10N2OS
reactant | 4-(t-butyldimethylsiloxy)-butyl-p-toluenesulphonate | 1.0 mmol, 358 mg | O([Si](C)(C)C(C)(C)C)CCCCC1=C(C=CC(=C1)S(=O)(=O)[O-])C
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 1-(4-hydroxybutyl) -6-phenylthiothymine | 12.0 mg, Yield: 4% | OCCCCN1C(=S)NC(=O)C(C)=C1C1=CC=CC=C1 | C15H18N2O2S
